US09315467B2
Preparation of 3-(4-p-Tolyl-[1,3,5]triazin-2-yl)benzoic acid (Compound 43)
Part D. A mixture of N-dimethylaminomethylene-4-methyl-benzamide (221.9 mg, 1.15 mmol) and 3-carbamimidoyl-benzoic acid tert-butyl ester (196.0 mg, 0.89 mmol) in anhydrous acetic acid (8 mL) is heated to 115° C. at 150 W, 250 psi in a microwave reactor for 30 min. until complete consumption of the starting material is determined by TLC. A white solid is precipitated by addition of 1 N HCl, and collected by filtration, followed by washing with water and hexanes. The obtained solid is further purified by flash column chromatography, eluting with methanol/methylene chloride (1:20) to afford the title product (23.1 mg, 5.3% yield), m.p. 298-300° C. 1H NMR (300 MHz, DMSO-d6): δ 9.40 (1H, s), 8.63 (2H, d, J=8.3 Hz), 8.48 (2H, d, J=8.0 Hz), 8.13 (2H, d, J=8.0 Hz), 7.41 (2H, m), 2.41 (3H, s). MS (ES+): m/e 292.30.

reactant | N-dimethylaminomethylene-4-methyl-benzamide | 1.15 mmol, 221.9 mg | CN(C)C=NC(C1=CC=C(C=C1)C)=O | C11H14N2O
reactant | 3-carbamimidoyl-benzoic acid tert-butyl ester | 0.89 mmol, 196.0 mg | C(C)(C)(C)OC(C1=CC(=CC=C1)C(N)=N)=O | C12H16N2O2
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 3-(4-p-Tolyl-[1,3,5]triazin-2-yl)benzoic acid | 23.1 mg, 5.3% yield | C1(=CC=C(C=C1)C1=NC(=NC=N1)C=1C=C(C(=O)O)C=CC1)C | C17H13N3O2
